US05451678
A solution of 287 mg of N-(2-quinolylcarbonyl)-L-asparagine and 401 mg of 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide in 3 ml of tetrahydrofuran was cooled to -10° C. and 163 mg of 3-hydroxy-1,2,3-benzotriazin-4(3H)-one and 220 mg of dicyclohexylcarbodiimide were added. The mixture was stirred at -10° C. for 2 hours and at 20° C. for 16 hours, then diluted with ethyl acetate and filtered. The filtrate was washed with saturated sodium bicarbonate solution and saturated sodium chloride solution and then evaporated. The residue was chromatographed on silica gel using 4% (by volume) methanol in dichloromethane for the elution to give 537 mg of N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide as a white solid: MS: m/e 671 [M+H]+.

reactant | N-(2-quinolylcarbonyl)-L-asparagine | 287 mg | N1=C(C=CC2=CC=CC=C12)C(=O)N[C@@H](CC(N)=O)C(=O)O | C14H13N3O4
reactant | 2-[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-decahydro-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 401 mg | N[C@H]([C@@H](CN1C[C@H]2CCCC[C@H]2C[C@H]1C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C24H39N3O2
reactant | 3-hydroxy-1,2,3-benzotriazin-4(3H)-one | 163 mg | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | dicyclohexylcarbodiimide | 220 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-tert.butyl-decahydro-2-[2(R)-hydroxy-4-phenyl-3(S)-[[N-(2-quinolylcarbonyl)-L-asparaginyl]amino]butyl]-(4aS,8aS)-isoquinoline-3(S)-carboxamide | 537 mg | C(C)(C)(C)NC(=O)[C@H]1N(C[C@H]2CCCC[C@H]2C1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C1=NC2=CC=CC=C2C=C1)CC(N)=O)=O)O | C38H50N6O5
